US07541372B2
(4-{5-[5-(2-Cyclopropyl-ethyl)-3-phenyl-isoxazol-4-yl]-[1,3,4]oxadiazol-2-yl}-3-methoxy-phenyl)-cyclopropylmethyl-amine
To a suspension of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in THF (2 mL) was added N,N-diisopropyl ethyl amine (128 μL, 0.75 mmol) and bromomethyl-cyclopropane (61 μL, 0.63 mmol) and the reaction mixture was stirred for 24 h at ambient temperature. After addition of potassium bis(trimethylsilyl)amide (0.91 M in THF, 0.82 mL, 0.75 mmol) stirring was continued for 15 min and further bromomethyl-cyclopropane (78 μL, 0.80 mmol) was added. After stirring for 18 h at ambient temperature further bromomethyl-cyclopropane (0.12 mL, 1.2 mmol) was added and stirring continued for 24 h at this temperature. The reaction mixture was extracted with aqueous sodium carbonate (saturated, 20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers dried over sodium sulfate. Concentration and then purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=40:40:20 to 0:80:20) afforded the title compound (27 mg, 10%) as a light brown solid. MS: m/e=457.4 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | N,N-diisopropyl ethyl amine | 0.75 mmol, 128 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromomethyl-cyclopropane | 0.63 mmol, 61 μL | BrCC1CC1 | C4H7Br
reactant | potassium bis(trimethylsilyl)amide | 0.75 mmol, 0.91 M, 0.82 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | bromomethyl-cyclopropane | 0.80 mmol, 78 μL | BrCC1CC1 | C4H7Br
reactant | bromomethyl-cyclopropane | 1.2 mmol, 0.12 mL | BrCC1CC1 | C4H7Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-{5-[5-(2-Cyclopropyl-ethyl)-3-phenyl-isoxazol-4-yl]-[1,3,4]oxadiazol-2-yl}-3-methoxy-phenyl)-cyclopropylmethyl-amine | 27 mg, 10% | C1(CC1)CCC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)NCC1CC1)OC | C27H28N4O3
